US07691882B2
3-Ethynyl-6-methyl-pyridin-2-ylamine
To a tetrahydrofuran (5 mL) solution of diisopropylamine (439 μL, 3.13 mmol) was added n-butyl lithium (1.81 mL, 1.6 M hexane solution, 2.89 mmol) under nitrogen atmosphere at −78° C., which was stirred for 15 minutes at 0° C. Then, trimethylsilyldiazomethane (1.81 mL, 2 M tetrahydrofuran solution, 3.62 mmol) was added to the reaction mixture at −78° C., which was stirred for 30 minutes at −78° C. To the reaction mixture was added a tetrahydrofuran (2 mL) solution of 2-amino-6-methyl-pyridine-3-carbaldehyde (328 mg, 2.41 mmol) described in Manufacturing Example 170-1-4 at −78° C., which was stirred for 25 minutes while the temperature was slowly raised to −30° C. Acetic acid (414 mL, 7.23 mmol) was added to the reaction mixture at −78° C., and the temperature was slowly raised, after which water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (243 mg, 76%).

reactant | diisopropylamine | 3.13 mmol, 439 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.89 mmol, 1.6 M, 1.81 mL | C(CCC)[Li]
reactant | trimethylsilyldiazomethane | 3.62 mmol, 2 M, 1.81 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-amino-6-methyl-pyridine-3-carbaldehyde | 2.41 mmol, 328 mg | NC1=NC(=CC=C1C=O)C | C7H8N2O
reactant | Acetic acid | 7.23 mmol, 414 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-Ethynyl-6-methyl-pyridin-2-ylamine | 243 mg, 76% | C(#C)C=1C(=NC(=CC1)C)N | C8H8N2
